US04398939
4-Methyl-3-thiophenesulfonyl isocyanate
A mixture of 18.8 g of N-butylaminocarbonyl-4-methyl-3-thiophenesulfonamide, 0.3 g of 1,4-diaza[2.2.2.]bicyclooctane and 100 ml of dry xylenes was heated to reflux (136° C.) and 7.4 g of phosgene was then added at a rate to maintain the temperature at above 125°. The mixture was refluxed for three and one half hours after the addition was completed. It was then cooled, filtered and concentrated in vacuo to yield a dark oil, (15 g) which showed absorption in the infrared spectrum at 2250 cm-1. This intermediate was used without further purification.

reactant | N-butylaminocarbonyl-4-methyl-3-thiophenesulfonamide | 18.8 g | C(CCC)NC(=O)NS(=O)(=O)C1=CSC=C1C | C10H16N2O3S2
reactant | bicyclooctane | C1(CCCCCCC1)C1CCCCCCC1 | C16H30
reactant | phosgene | 7.4 g | C(=O)(Cl)Cl | CCl2O
product | 4-Methyl-3-thiophenesulfonyl isocyanate | CC=1C(=CSC1)S(=O)(=O)N=C=O | C6H5NO3S2
